US06903107B1
4a. Ethyl N-tert-butoxycarbonyl-3-cyclobutylamino-propanoate
The title compound was prepared from ethyl acrylate (1.09 ml, 10 mmol) and cyclobutylamine (0.85 ml, 10 mmol) according to Example 2a. Yield: 1.71 9 (63%). ESI-MS: 272.2 (M+H)+, 216.2 (M+H—C4H8)+, 172.2 (M+H-Boc)+. Rf (silica gel; ethyl acetate/heptane, 1:4, v/v): 0.44.

reactant | ethyl acrylate | 10 mmol, 1.09 ml | C(C=C)(=O)OCC | C5H8O2
reactant | cyclobutylamine | 10 mmol, 0.85 ml | C1(CCC1)N | C4H9N
reactant | H-Boc | C(=O)OC(C)(C)C | C5H10O2
solvent | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
product | Ethyl N-tert-butoxycarbonyl-3-cyclobutylamino-propanoate | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)C1CCC1 | C14H25NO4
